US04277470
(e) 5'-Methylthio-3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-5-pyrroline] hydriodide
24 mmoles of 3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidine]-5'-thione and 3 ml of methyl iodide are heated in 50 ml of acetone for 10 minutes. After cooling, the mixture is filtered. Crystals of melting point 192°-193° C. are obtained.

reactant | 3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-pyrrolidine]-5'-thione | 24 mmoles | C1(=CC=CC=C1)C1C2CCC(CC2)C12NC(CC2)=S | C17H21NS
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 5'-Methylthio-3-phenyl-spiro[bicyclo[2.2.2]-octane-2,2'-5-pyrroline] hydriodide | I.CSC=1CCC2(N1)C1CCC(C2C2=CC=CC=C2)CC1 | InChI=1S/C18H23NS.HI/c1-20-16-11-12-18(19-16)15-9-7-14(8-10-15)17(18)13-5-3-2-4-6-13;/h2-6,14-15,17H,7-12H2,1H3;1H
